US08455479B2
To a solution of 2-nitrobenzyl bromide (1.0 g, 4.63 mmol) and glycine methyl ester hydrochloride (868 mg, 6.94 mmol) in dry DMF (10 mL), was added DIPEA (2.42 mL, 13.89 mmol) under nitrogen atmosphere. The reaction mixture was stirred at. r.t. overnight. After completion of the reaction as confirmed by TLC, water (50 mL) was added to the reaction mixture. The crude product was extracted with ethyl acetate (20 mL). The aqueous layer was washed with ethyl acetate (2×10 mL), The combined organic extract was dried over Na2SO4 and the solvents were removed in vacuo to afford the crude compound, which was purified by column chromatography (silica gel, 1:9 EtOAc:Pet Ether) to afford pure (2-nitro-benzylamino)-acetic acid methyl ester (765 mg 73%) as a viscous oil.

reactant | 2-nitrobenzyl bromide | 4.63 mmol, 1.0 g | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
reactant | glycine methyl ester hydrochloride | 6.94 mmol, 868 mg | Cl.COC(CN)=O
reactant | DIPEA | 13.89 mmol, 2.42 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2-nitro-benzylamino)-acetic acid methyl ester | 765 mg, 73% | COC(CNCC1=C(C=CC=C1)[N+](=O)[O-])=O | C10H12N2O4
